US04400318
2,7-Dimethyl-N-Ethyl-1,2,3,4-Tetrahydroquinoline
A mixture of 2,7-dimethyl-1,2,3,4-tetrahydroquinoline (48.3 g. 0.3 m), potassium carbonate (41.4 g, 0.3 m), and iodoethane (100 g) was heated at reflux for 4 hrs. Water (200 ml) was added and then the organic layer was extracted using chloroform (100 ml). The organic layer was separated and dried over sodium sulfate. Chloroform and excess iodoethane were distilled off to leave essentially pure product (44 g), which was used without further purification.

reactant | 2,7-dimethyl-1,2,3,4-tetrahydroquinoline | 48.3 g | CC1NC2=CC(=CC=C2CC1)C | C11H15N
reactant | potassium carbonate | 41.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodoethane | 100 g | ICC | C2H5I
solvent | Water | 200 ml | O | H2O
product | 2,7-Dimethyl-N-Ethyl-1,2,3,4-Tetrahydroquinoline | 44 g | CC1N(C2=CC(=CC=C2CC1)C)CC | C13H19N
